US08426411B2
A microwave vial was charged with 3-bromo-1-cyclohexyl-6-tosyl-6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazine (0.050 g, 0.11 mmol, Preparation #MM.1), 4-(methylsulfonyl)phenylboronic acid (0.023 g, 0.12 mmol, Acros), cesium carbonate (0.086 g, 0.26 mmol), dichlorobis(triphenylphosphine)palladium(II) (0.0066 g, 0.0000094 mmol), and 1,4-dioxane (0.42 mL), EtOH (0.42 mL), and water (0.21 mL). The vial was capped and the mixture was heated to about 120° C. for about 20 min (5 min ramp time, 300 Watts max power, 250 psi max pressure) in a microwave. The reaction mixture was concd under reduced pressure to give a solid that was dissolved in 1,4-dioxane (1.0 mL) and transferred to a microwave vial. Aqueous 2 N NaOH (0.11 mL, 0.21 mmol) was added and the vial was capped. The solution was heated to about 100° C. for about 15 min in a microwave (300 W max power, 250 psi max pressure, 5 min ramp time). DCM (10 mL) and saturated aqueous NH4Cl (5 mL) were added to the reaction solution. The layers were separated and the aqueous solution was extracted with additional DCM (5 mL). The combined extracts were dried over anhydrous MgSO4, filtered, and concentrated to dryness under reduced pressure to give a light brown solid. Upon addition of DCM (1 mL), a yellow precipitate formed that was collected by vacuum filtration and dried overnight on a Buchner funnel to give 1-cyclohexyl-3-(4-(methylsulfonyl)phenyl)-6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazine (0.017 g, 41%): LC/MS (Table 1, Method a) Rt=2.39 min; MS m/z: 395 (M+H)+.

reactant | 3-bromo-1-cyclohexyl-6-tosyl-6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazine | 0.11 mmol, 0.050 g | BrC=1N=C(N2C1C=NC1=C2C=CN1S(=O)(=O)C1=CC=C(C)C=C1)C1CCCCC1 | C21H21BrN4O2S
reactant | 4-(methylsulfonyl)phenylboronic acid | 0.12 mmol, 0.023 g | CS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H9BO4S
reactant | cesium carbonate | 0.26 mmol, 0.086 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | NaOH | 0.21 mmol, 2 N, 0.11 mL | [OH-].[Na+]
reactant | NH4Cl | 5 mL | [NH4+].[Cl-]
solvent | 1,4-dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.0000094 mmol, 0.0066 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | 1,4-dioxane | 0.42 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | 0.21 mL | O | H2O
solvent | EtOH | 0.42 mL | CCO | C2H6O
product | 1-cyclohexyl-3-(4-(methylsulfonyl)phenyl)-6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazine | 0.017 g, 41% | C1(CCCCC1)C1=NC(=C2N1C1=C(N=C2)NC=C1)C1=CC=C(C=C1)S(=O)(=O)C | C21H22N4O2S
